US07504520B2
2-bromo-1-(4-tert-butylphenyl)ethanone
A solution of 4-tert-butylacetophenone (5 g, 28.4 mmol) in acetic acid (2 mL) was carefully (the reaction was exothermic) treated with Br2 (1.46 mL, 28.5 mmol), followed by 48% aq. HBr (0.015 mL, 0.132 mmol). The reaction was stirred at room temperature for 4 hours, then was poured onto ice and was extracted with diethyl ether. The organic phase was concentrated and was then chromatographed on silica gel, eluting with 5% ethyl acetate-hexane, followed by 10% ethyl acetate-hexane, to afford the title compound as a pale brown oil, 1.305 g (18%). 1H NMR (DMSO-d6) δ 7.94 (d, 2H, J=8.5 Hz), 7.58 (d, 2H, J=8.5 Hz), 4.90 (s, 2H), 1.31 (s, 9H); MS (ESI+) m/z 255 (M+H).

reactant | 4-tert-butylacetophenone | 28.4 mmol, 5 g | CC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H16O
reactant | Br2 | 28.5 mmol, 1.46 mL | BrBr | Br2
reactant | HBr | 0.132 mmol, 0.015 mL | Br | BrH
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(4-tert-butylphenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO
